US05506351
2'-O-Propylguanosine
A mixture of 2,6-Diamino-9-(2'-O-propyl-β-D-ribofuranosyl) purine and 2,6-Diamino-9-(3'-O-propyl-β-D-ribofuranosyl) purine (4.6 gm) and adenosine deaminase (200 mg, Sigma Chemicals Type II) were stirred at room temperature overnight in 0.1M tris buffer (150 ml, pH 7.4), DMSO (100 ml) and 0.1M sodium phosphate buffer (10 ml). A further aliquot of adenosine deaminase (140 mg) in 0.1M phosphate buffer (30 ml) and DMSO (20 ml) was added and the reaction stirred an addition 24 hrs. The solvent was evaporated in vacuo and the residue flash chromatographed on silica gel utilizing 5→20% MeOH/CH2Cl2. Product-containing fractions were evaporated in vacuo and the residue crystallized from H2O to yield 2.6 gm of product. m.p. dec>270° C. 1H NMR (DMSO-d6) δ 0.75 (t, 3, CH3), 1.42 (tq, 2, CH2), 3.3-3.6 (m, 4, H-5', O--CH2), 3,85 (m, 1), 4.2 (m, 1), 4.23 (m, 1), 5.10 (t, 1, 5'-OH), 5.13 (d, 1, 3'-OH), 5.75 (d, 1, H-1'), 6.45 (br s, 2, NH2), 7.95 (s, 1, H-8) and 10.67 (br s, 1, NH). Anal. Calcd. for C13H19N5O5 : C, 47.99; H, 5.89; N, 21.53. Found: C, 47.90, H, 5.85; N, 21.44.

reactant | 2,6-Diamino-9-(2'-O-propyl-β-D-ribofuranosyl) purine | NC1=NC(=C2N=CN(C2=N1)[C@H]1[C@H](OCCC)[C@H](O)[C@H](O1)CO)N | C13H20N6O4
reactant | 2,6-Diamino-9-(3'-O-propyl-β-D-ribofuranosyl) purine | 4.6 gm | NC1=NC(=C2N=CN(C2=N1)[C@H]1[C@H](O)[C@H](OCCC)[C@H](O1)CO)N | C13H20N6O4
reactant | adenosine | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(N)=NC=NC12 | C10H13N5O4
reactant | sodium phosphate | 0.1M, 10 ml | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
solvent | phosphate | 0.1M, 30 ml | P(=O)([O-])([O-])[O-]
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
solvent | DMSO | 100 ml | CS(=O)C | C2H6OS
product | 2'-O-Propylguanosine | 2.6 gm | C(CC)O[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C=NC=2C(=O)NC(N)=NC12 | C13H19N5O5
